US05206256
6-Cyano-1-(1-imidazolyl)-3,4-dihydronaphthalene
175 μl of thionyl chloride are added dropwise to a solution of 272 mg of imidazole in 2.5 ml of methylene chloride. 342 mg of 6-cyano-1-tetralone are added in portions to the resulting white suspension, and the reaction mixture is stirred for 7 hours at 40° and then for 24 hours at room temperature. 386 mg of potassium carbonate in 1.6 ml of water are added to the reaction mixture, which is then extracted with chloroform. After drying the organic phase over sodium sulfate, concentration is carried out under reduced pressure. The resulting crude product is purified by column chromatography (0.04-0.063 mesh SIO2, hexane/ethyl acetate 1:2). Crystallisation from ether yields the title compound in the form of colourless crystals; m.p. 152°-153°. TLC (ethyl acetate): Rf=0.17.

reactant | thionyl chloride | 175 μl | S(=O)(Cl)Cl | Cl2OS
reactant | imidazole | 272 mg | N1C=NC=C1 | C3H4N2
reactant | 6-cyano-1-tetralone | 342 mg | C(#N)C=1C=C2CCCC(C2=CC1)=O | C11H9NO
reactant | potassium carbonate | 386 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 1.6 ml | O | H2O
product | 6-Cyano-1-(1-imidazolyl)-3,4-dihydronaphthalene | C(#N)C=1C=C2CCC=C(C2=CC1)N1C=NC=C1 | C14H11N3
